US08957070B2
2-(4,5-Dihydro-1,3-thiazol-2-yl)-N-methyl-1H-indole-7-amine
2-(4,5-Dihydro-1,3-thiazol-2-yl)-1H-indole-7-amine (1.08 g), aqueous formaldehyde solution (37%, 372 μL) and benzotriazole (595 mg) were dissolved in ethanol (15 mL) and tetrahydrofuran (15 mL), and the mixture was stirred at room temperature for 2 days. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The obtained residue was subjected to silica gel column chromatography (ethyl acetate:hexane=1:1) to give a yellow oil (360 mg, yield 31%). M+1=232.

reactant | 2-(4,5-Dihydro-1,3-thiazol-2-yl)-1H-indole-7-amine | 1.08 g | S1C(=NCC1)C=1NC2=C(C=CC=C2C1)N | C11H11N3S
reactant | formaldehyde | 372 μL | C=O | CH2O
reactant | benzotriazole | 595 mg | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | Water | O | H2O
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 2-(4,5-Dihydro-1,3-thiazol-2-yl)-N-methyl-1H-indole-7-amine | 360 mg, yield 31% | S1C(=NCC1)C=1NC2=C(C=CC=C2C1)NC | C12H13N3S
